US05780472
1-[(5,6-dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(4-hydroxyphenyl) piperazine
Phenyl-N-(5,6-dimethyl-2-methoxypyridin-3-yl)carbamate and 1-(4-hydroxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(5,6-dimethyl-2-methoxypyridin-3-yl)carbamate | C1(=CC=CC=C1)OC(NC=1C(=NC(=C(C1)C)C)OC)=O | C15H16N2O3
reactant | 1-(4-hydroxyphenyl)piperazine | OC1=CC=C(C=C1)N1CCNCC1 | C10H14N2O
product | 1-[(5,6-dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(4-hydroxyphenyl) piperazine | yield: 72% | CC=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CC=C(C=C1)O | C19H24N4O3
